US07045551B2
(R)-3-(2,6-Difluoro-phenyl)-N-[2-hydroxy-1-(7-methoxy-naphthalen-2-yl)-ethyl]-acrylamide
A mixture of (R)-2-Amino-2-(7-methoxy-naphthalen-2-yl)-ethanol (0.1 mmol), 2,6-difluorocinnamic acid (0.1 mmol), EDC·HCl (0.2 mmol), DMAP 0.1 mmol), triethyl amine (0.3 mmol) in dichloromethane (2 mL) was stirred at room temperature for 14 h. The reaction mixture was purified by flash chromatography eluting with 5% methnol in ethyl acetate to provide the title compound as a solid (25 mg).

reactant | (R)-2-Amino-2-(7-methoxy-naphthalen-2-yl)-ethanol | 0.1 mmol | N[C@@H](CO)C1=CC2=CC(=CC=C2C=C1)OC | C13H15NO2
reactant | 2,6-difluorocinnamic acid | 0.1 mmol | FC1=C(C=CC(=O)O)C(=CC=C1)F | C9H6F2O2
reactant | EDC·HCl | 0.2 mmol | CCN=C=NCCCN(C)C.Cl
reactant | triethyl amine | 0.3 mmol | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.1 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (R)-3-(2,6-Difluoro-phenyl)-N-[2-hydroxy-1-(7-methoxy-naphthalen-2-yl)-ethyl]-acrylamide | 25 mg | FC1=C(C(=CC=C1)F)C=CC(=O)N[C@@H](CO)C1=CC2=CC(=CC=C2C=C1)OC | C22H19F2NO3
